US05374454
A potassium anthracene solution is prepared by adding about 17.8 gm of anthracene to about 500 ml of ethylene glycol dimethyl ether (monoglyme) in a flask in a glove box. A total of about 3.8 gm potassium metal is then added to the mixture. This composition gives a 5% by weight KAn solution. The mixture is then stirred overnight to allow the KAn formation to complete. The solution is then brought out of the glove box and placed into a large glass vessel blanketed with Ar gas. The bath effectiveness in modifying the surface of RO2800 samples was periodically tested. The experiment is terminated after 90 hours with the solution still being active.

reactant | anthracene | about 17.8 gm | C1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H10
reactant | potassium | about 3.8 gm | [K] | K
solvent | ethylene glycol dimethyl ether | about 500 ml | COCCOC | C4H10O2
product | potassium anthracene | C1=CC=CC2=CC3=CC=CC=C3C=C12.[K] | InChI=1S/C14H10.K/c1-2-6-12-10-14-8-4-3-7-13(14)9-11(12)5-1;/h1-10H;
